US07635715B2
Step C: Preparation of Diethyl 2-(2-(3-chloro-4-fluorophenyl)-2-methylpropanoyl)malonate
Diethyl malonate (5.68 mL, 37.6 mmol) was dissolved in ACN (75 mL) at 0° C. MgCl2 (3.93 g, 41.3 mmol) was added to the reaction mixture in one portion and TEA (10.5 mL, 75.1 mmol) was added dropwise. 2-(3-chloro-4-fluorophenyl)-2-methylpropanoic acid (7.73 g, 35.7 mmol) was converted to the acid chloride by reaction with thionyl chloride at 65° C. for 1 hour, and the resulting acid chloride was concentrated under reduced pressure. The acid chloride was then dissolved in ACN and added dropwise via addition funnel to the initial reaction mixture. The resulting mixture was stirred at ambient temperature for 2 hours and then quenched with water, acidified with 5N HCl, diluted with 100 mL of diethyl ether, added to a separatory funnel, partitioned with water, washed with water (2×50 mL), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (7.17 g) as a light yellow oil after flash chromatography. MS m/e=359 (M+H)+.

reactant | Diethyl malonate | 37.6 mmol, 5.68 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | MgCl2 | 41.3 mmol, 3.93 g | [Mg+2].[Cl-].[Cl-]
reactant | 2-(3-chloro-4-fluorophenyl)-2-methylpropanoic acid | 35.7 mmol, 7.73 g | ClC=1C=C(C=CC1F)C(C(=O)O)(C)C | C10H10ClFO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | ACN | 75 mL | C(C)#N | C2H3N
product | Diethyl 2-(2-(3-chloro-4-fluorophenyl)-2-methylpropanoyl)malonate | 7.17 g | ClC=1C=C(C=CC1F)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H20ClFO5
